US05300518
2-Amino-6-hydroxy-4,7-dimethylbenzothiazole hydrochloride
To 2.24 g of thiourea were added 60 ml of ethanol and 2.5 ml of concentrated hydrochloric acid, followed by stirring. Then a solution of 8.0 g of p-xyloquinone in ethanol (120 ml) was slowly added dropwise thereto. The reaction mixture was stirred at room temperature for 24 hours and then concentrated to about one-half. The crystals thus precipitated were separated by filtering and washed with a small amount of ethanol. Thus 6.80 g of the title compound was obtained in the form of white crystals.

reactant | thiourea | 2.24 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
reactant | p-xyloquinone | 8.0 g | CC1=CC(=O)C(=CC1=O)C | C8H8O2
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-Amino-6-hydroxy-4,7-dimethylbenzothiazole hydrochloride | 6.80 g | Cl.NC=1SC2=C(N1)C(=CC(=C2C)O)C | InChI=1S/C9H10N2OS.ClH/c1-4-3-6(12)5(2)8-7(4)11-9(10)13-8;/h3,12H,1-2H3,(H2,10,11);1H
